US05442055
A mixture of 20 g of dibutylketone, 19.3 g of salicylamide and 2.7 g of p-toluenesulfonic acid monohydrate is added to 300 ml of toluene and the mixture is refluxed overnight by making use of a dehydrator of Dean Stark. After cooling, the reaction mixture is washed, dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; hexane:ethyl acetate =95:5) to obtain 34 g of 2,2-dibutyl-4-oxo-2,3-dihydro-4H-1,3-benzoxazine as a yellow oil.

reactant | dibutylketone | 20 g | C(CCC)C(=O)CCCC | C9H18O
reactant | salicylamide | 19.3 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | p-toluenesulfonic acid monohydrate | 2.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-dibutyl-4-oxo-2,3-dihydro-4H-1,3-benzoxazine | 34 g | C(CCC)C1(OC2=C(C(N1)=O)C=CC=C2)CCCC | C16H23NO2
